US07601716B2
(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-[4-(tetrahydrofuran-2-carbonyl)piperazin-1-yl]methanone
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1-(tetrahydrofuran-2-carbonyl)piperazine as in General Procedure 10 to give the title compound. LCMS: m/z=613.98 (M+H+); retention time=0.72 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1-(tetrahydrofuran-2-carbonyl)piperazine | O1C(CCC1)C(=O)N1CCNCC1 | C9H16N2O2
product | (4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-[4-(tetrahydrofuran-2-carbonyl)piperazin-1-yl]methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C(=O)C3OCCC3)C1)C(F)(F)F | C31H31ClF3N5O3
